US04371536
0.3 g of 6-amino-4-methyl-β-carbolin-3-carboxylic acid ethyl ester is suspended in 5 ml of ethylene glycol and, after the addition of 3 ml of dimethylamine, the whole is heated for 22 hours at 100° C. After cooling, the mixture is poured into 30 ml of ice water, extracted with ethyl acetate, washed with water until neutral, dried using sodium sulphate, filtered and the solvent is distilled off in vacuo. The crude product precipitates as a fine brown powder. 0.2 g of 6-amino-4-methyl-β-carbolin-3-carboxylic acid N,N-dimethylamide of melting point 235°-245° C. (decomposition) is obtained.

reactant | 6-amino-4-methyl-β-carbolin-3-carboxylic acid ethyl ester | 0.3 g | C(C)OC(=O)C=1N=CC=2NC3=CC=C(C=C3C2C1C)N | C15H15N3O2
reactant | dimethylamine | 3 ml | CNC | C2H7N
solvent | ethylene glycol | 5 ml | C(CO)O | C2H6O2
product | 6-amino-4-methyl-β-carbolin-3-carboxylic acid N,N-dimethylamide | 0.2 g | CN(C(=O)C=1N=CC=2NC3=CC=C(C=C3C2C1C)N)C | C15H16N4O
